US07993494B2
Step 2: Synthesis of 5-(3-fluorophenyl)-2,3-diphenylpyrazine (abbreviation: Hdppr-3FP)
First, 7.5 mL (1.58 mol/L) of hexane solution of n-butyllithium was added dropwise to a mixed solution of 1.49 g of 3-bromofluorobenzene and 11 mL of tetrahydrofuran at −78° C. under an atmosphere of nitrogen, and stirred for 30 minutes, keeping the temperature at −78° C. The obtained solution was added dropwise to a mixed solution, which was cooled with ice, of 2.45 g of 2,3-diphenylpyrazine and 20 mL of tetrahydrofuran, and stirred for 1 hour at room temperature. Water was added to this mixture and an organic layer was extracted using ethyl acetate as an extraction solvent. The obtained organic layer was washed with water and dried with anhydrous magnesium sulfate. After drying, the solution was filtrated. The solvent of the solution was distilled off and the residue obtained by distillation was purified by silica gel column chromatography using dichloromethane as a developing solvent. In this way, Hdppr-3FP (an orange powder, yield: 8%), which was a target substance was obtained. A synthetic scheme of Step 1 is shown by a following (c-2).

reactant | hexane | 1.58 mol/L, 7.5 mL | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromofluorobenzene | 1.49 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | 2,3-diphenylpyrazine | 2.45 g | C1(=CC=CC=C1)C1=NC=CN=C1C1=CC=CC=C1 | C16H12N2
solvent | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 5-(3-fluorophenyl)-2,3-diphenylpyrazine | yield: 8% | FC=1C=C(C=CC1)C=1N=C(C(=NC1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H15FN2
